US04294960
A solution of 2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetic acid (syn isomer, 0.9 g.), N,N-dimethylformamide (0.24 g.) and phosphoryl chloride (0.5 g.) in ethyl acetate (10 ml.) and a solution of 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride (1.23 g.) and trimethylsilylacetamide (2.8 g.) in ethyl acetate (20 ml.) were treated in a similar manner to that of Example 21-(1) to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 1.9 g.).

reactant | 2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetic acid | 0.9 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(F)(F)F | C8H6F3N3O4S
reactant | phosphoryl chloride | 0.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride | 1.23 g | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | trimethylsilylacetamide | 2.8 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.24 g | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate | 1.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(F)(F)F | C22H16ClF3N6O8S2
